Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with past medical
history notable for history of hypertension, Alzheimer's 
disease,
afib with RVR, severe mitral regurg and diastolic heart failure
who presents with complains of shortness of breath in the 
setting
of coughing.

Patient and family report having recent flu ~4 weeks ago 
(unclear
if test for flu was done then) and since then has had productive
cough. Patient reports that 4 days ago she began having
significant coughing, productive of yellow phlegm with 
occasional
blood streaks. Day prior to admission, began feeling short of
breath, worsening on day of admission. She attempted to use 
cough
suppressants to treat her symptoms. She denies orthopnea though
she reports cough is worse at night leading to shortness of
breath. She denies SOB on exertion.

Of note, she was recently (___) hospitalized for severe
mitral regurgitation. afib with RVR and diastolic heart failure.

She has felt chills but denies fevers. Denies chest pain, 
nausea,
vomiting, change in bowel or bladder function, change in vision
or hearing, bruising, adenopathy, new rash or lesion.

In the ED,
- Initial vitals: 98.8 64 148/77 18 97% RA 
- Exam notable for: Regular rate and rhythm, significant 
systolic
murmur. Mild, diffuse wheezes. Abdomen soft, nontender,
nondistended. Bilateral lower extremity edema
- Labs
+ CBC: WBC 11.3  H/H 9.3/28.7, Plt 288
+ Chem 10: Na 134, K 3.9 HCO3 21, Creat 0.5
+ Trop 0.01, BNP 7600
+ INR: 2.5, Lactate 0.9
+ Flu swab was negative
- Imaging notable for Cxray with concern for Mild-to-moderate
pulmonary edema, moderate cardiomegaly, and small bilateral 
pleural effusions.  Superimposed pneumonia is not excluded in 
the
appropriate clinical setting. 
- Patient was given: Ceftriaxone, azithromycin, Vancomycin
- Transfer vitals: 99.1 70 101/69 16 99% 3L NC 
 
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
 
Past Medical History:
Hyperlipidemia
Late onset Alzheimer's disease 
Osteopenia 
Fe deficiency anemia
Sigmoid diverticulosis
 
Social History:
___
Family History:
Colon cancer (brother/mother)  
Type 2 diabetes (brother, sister)  
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.  
 
Physical Exam:
ADMISSION EXAM
VITALS: ___ 1247 Temp: 98.0 PO BP: 95/55 HR: 60 RR: 22 O2
sat: 97% O2 delivery: 2 L nc 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, loud systolic murmur, loudest in LUSB, No 
JVD.
RESP: Lungs with crackles at bases (left side > ride crackles)
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, trace edema in bilateral
lower extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM: 
VITALS: Afebrile, HDS
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, loud systolic murmur, loudest in LUSB, No 
JVD.
RESP: CTAB
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, trace edema in bilateral
lower extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 08:15AM BLOOD WBC: 6.9 RBC: 3.19* Hgb: 9.3* Hct: 29.7*
MCV: 93 MCH: 29.2 MCHC: 31.3* RDW: 14.8 RDWSD: 49.7* Plt Ct: 320 

___ 08:15AM BLOOD Glucose: 84 UreaN: 11 Creat: 0.7 Na: 140
K: 4.0 Cl: 105 HCO3: 26 AnGap: 9* 

___ 2:59 pm URINE      TAKEN FROM ___. 
  
                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other
      L. pneumophila serogroups or other Legionella species.
      Furthermore, in infected patients the excretion of antigen
      in urine may vary. 
 
Time Taken Not Noted     Log-In Date/Time: ___ 6:47 am
      BLOOD CULTURE
  
   Blood Culture, Routine (Preliminary): 
      VIRIDANS STREPTOCOCCI.    FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in
MCG/ML
                     
_________________________________________________________
                             VIRIDANS STREPTOCOCCI
                             |   
CEFTRIAXONE-----------<=0.12 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------     2 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CHAINS. 
 
 
Brief Hospital Course:
___ w/ hx of HFpEF, severe mitral regurgitation, AF on apixaban,
hypertension a/w Strep Viridans bacteremia. Ruled out for 
infective endocarditis w/ TTE followed by a TEE. Repeat cultures 
negative. Mid-line was placed on ___. Plan for two weeks course 
of IV ceftriaxone, last dose ___. 

# Strep viridans bacteremia 
- Cont IV CTX (14 days course, last dose ___

#HFpEF exacerbation 
- Initially treated w/ Lasix 20mg daily (home regimen 20mg 
3x/week)
- Resumed home regimen of Lasix on discharge 
- Cont Toprol-XL

# Afib with RVR: Currently in sinus rhythm. this was new on 
prior
admission in ___. Currently appears to be in sinus rhythm.
CHADSVASC is 3.
- Cont Toprol-XL
- Continue apixaban

# Late onset Alzheimer's disease: Noted on MOCA score of ___ 
on
prior PCP ___. 
- Continue to monitor and follow up on outpatient plans for 
neuro
referral and planned possible initiation of donepezil. Long term
plan is for patient to move in with her daughter in ___

# ___ anemia: Hgb 9.3 on admission and at baseline. Of
note with high ferritin on last admission, unclear consistency
with iron deficiency anemia but also unclear if ferritin high 
due
to inflammatory response. Last colonoscopy was in ___ for
surveillance polyps
- Stable 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO 3X/WEEK (___) 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Rivaroxaban 20 mg PO DINNER 

 
Discharge Medications:
1.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 g IV daily 
Disp #*10 Intravenous Bag Refills:*0 
2.  Furosemide 20 mg PO 3X/WEEK (___)  
3.  Metoprolol Succinate XL 100 mg PO DAILY  
4.  Rivaroxaban 20 mg PO DINNER  
5.Rolling walker
Diagnosis: Gait instability
Prognosis: Good
___: 13months 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Strep viridans bacteremia

 
Discharge Condition:
Discharge condition_x0096_stable
Mental status_x0096_alert and oriented x3
Ambulatory

 
Discharge Instructions:
You were admitted to the hospital for a bloodstream infection.  
You were ruled out for infective endocarditis with a 
transthoracic echocardiogram followed by a transesophageal 
echocardiogram.  Both of the studies did not suggest that you 
had infective endocarditis.  You are seen by our infectious 
disease specialist who recommended that you stay on IV 
ceftriaxone for a total of 14-day course of antibiotics.  
Midline was placed on ___ and you continue with IV 
ceftriaxone at home.

 
Followup Instructions:
___